US09085637B2
Above prepared 14-bromo-tetradecanoic acid (8.34 g, 26.0 mmol) was dissolved in n-propanol (10 mL), water (25 mL) and 1M aqueous solution of sodium hydroxide (32 mL) and sodium sulfite (5.00 g, 39.7 mmol) was added. Reaction mixture was heated to reflux for 22 hrs. After cooling down white precipitate was filtered off. Conc. hydrochloric acid was added to give acidic pH and precipitate was centrifuged and decantated two times with water (2×50 ml). After lyophilization 14-sulfo-tetradecanoic acid sodium salt was obtained as a white solid.

reactant | 14-bromo-tetradecanoic acid | 26.0 mmol, 8.34 g | BrCCCCCCCCCCCCCC(=O)O | C14H27BrO2
reactant | water | 25 mL | O | H2O
reactant | sodium hydroxide | 32 mL | [OH-].[Na+]
reactant | sodium sulfite | 39.7 mmol, 5.00 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 50 ml | O | H2O
solvent | n-propanol | 10 mL | C(CC)O | C3H8O
product | 14-sulfo-tetradecanoic acid sodium salt | [Na+].S(=O)(=O)(O)CCCCCCCCCCCCCC(=O)[O-] | InChI=1S/C14H28O5S.Na/c15-14(16)12-10-8-6-4-2-1-3-5-7-9-11-13-20(17,18)19;/h1-13H2,(H,15,16)(H,17,18,19);/q;+1/p-1
